2119-03-25 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2119-3-24**] 06:03 PM
   - weaned off neosynephrine, propofol weaned down to 20
   - RISB was 69
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-3-24**] 09:17 PM
   Vancomycin - [**2119-3-24**] 10:00 PM
   Piperacillin - [**2119-3-24**] 11:57 PM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-3-24**] 09:17 PM
   Omeprazole (Prilosec) - [**2119-3-24**] 09:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-25**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 65 (56 - 72) bpm
   BP: 95/54(63) {89/47(57) - 127/60(74)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,345 mL
                                                                    738 mL
   PO:
             TF:
   IVF:
                                                                  1,305 mL
                                                                    708 mL
   Blood products:
                                                                  2,040 mL
   Total out:
                                                                    625 mL
                                                                    310 mL
   Urine:
                                                                    295 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,720 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 540 (540 - 540) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.38/49/128/25/3
   Ve: 10.1 L/min
   PaO2 / FiO2: 256
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   331 K/uL
   10.7 g/dL
   99 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   13 mg/dL
   100 mEq/L
   137 mEq/L
   31.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
   WBC
   11.7
   Hct
   31.5
   Plt
   331
   Cr
   0.8
   TCO2
   30
   Glucose
   99
   Other labs: PT / PTT / INR:13.2/26.9/1.1, Lactic Acid:1.4 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   68 year-old man with IPF, former smoker, and hypertension with hypoxia
   despite treatment with PNA, found to have left lingular mass on rigid
   bronch [**3-24**], in MICU for failed exubation s/p bronch.
   .
   # Respiratory failure: Patient with failed extubation after bronch.
   Unclear reasons for failed extubation (?bleeding after procedure)
   however, upon admission, the patient has been able to wean down
   ventilator support
   - Continue to wean down vent
   - SBT/trial PS tomorrow AM
   - continue antibiotics and nebs
   - suctioning and watch for evidence of active alveolar hemorrhage
   .
   # L lingular mass: Found to have new L lingular mass on bronchoscopy
   today which can likely explain his symptoms of cough, hemoptysis.
   Biopsies of two LNs were also taken during bronch. No evidence of
   infection (fever, leukocytosis, left shift, positive cultures) so far
   on hospital stay
   - f/u pathology specimens
   - pending path, may need oncology involvement for treatment, further
   workup to r/o metastases
   - may have post obstructive PNA, so overnight will continue broad
   spectrum abx (vanco/zosyn/azithromycin) however his symptoms may all be
   explained by his mass so if no evidence of infection, can be peeled off
   - obtain endotracheal sputum Cx
   - f/u BCx cultures
   - patient still not aware of results of bronch, wife wishes to be
   present during this discussion after her is extubated
   .
   # Hypotension: Likely [**1-17**] sedation with propofol. Was transferred on
   neosynephrine. No indication of infection/sepsis
   - wean down pressors as tolerated, keeping SBP>80, can bolus prn
   - watch UOP and keep>30cc/hr
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold medications for IPF
   .
   # GERD/hiatal hernia:
   -Continue omeprazole.
   .
   # FEN: PIV, hold on placing central line as we are weaning off pressors
   overnight
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: peripherals, 18 and 20g, foley
   .
   # Code: Full code
   .
   # Communication: wife - [**Name (NI) 787**] [**Name (NI) **]
   (c) [**Telephone/Fax (1) 14498**]
   (c) [**Telephone/Fax (1) 14499**]
   (h) [**Telephone/Fax (1) 14500**]
   .
   # Disposition: ICU for now, may eventually need to be transferred east
   if requires oncology treatment
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-3-24**] 06:33 PM
   18 Gauge - [**2119-3-24**] 06:34 PM
   Prophylaxis:
   DVT: SC heparin, pneumoboots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife - [**Name (NI) 787**] [**Name (NI) **]
   (c) [**Telephone/Fax (1) 14498**]
   (c) [**Telephone/Fax (1) 14499**]
   (h) [**Telephone/Fax (1) 14500**]
   Code status: Full code
   Disposition: ICU for now

2119-03-25 08:21:00 Physician Attending Progress Note
Chief Complaint: Respiratroy failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 year old man with PMH [**Hospital 14506**] transfered from medical floor with scanrt
   hemoptysis, lingular [**Hospital3 14507**] failure.
   24 Hour Events:
   Intubated post bronch at 4pm
   History obtained from Family / [**Hospital 75**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-3-24**] 09:17 PM
   Vancomycin - [**2119-3-24**] 10:00 PM
   Piperacillin - [**2119-3-25**] 07:43 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-3-25**] 07:43 AM
   Omeprazole (Prilosec) - [**2119-3-25**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia, hypotension
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2119-3-25**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 71 (56 - 72) bpm
   BP: 94/50(61) {89/47(57) - 127/60(74)} mmHg
   RR: 23 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,345 mL
                                                                    988 mL
   PO:
             TF:
   IVF:
                                                                  1,305 mL
                                                                    898 mL
   Blood products:
                                                                  2,040 mL
   Total out:
                                                                    625 mL
                                                                    370 mL
   Urine:
                                                                    295 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,720 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 540 (540 - 540) mL
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/49/128/25/3
   Ve: 10.1 L/min
   PaO2 / FiO2: 256
   Physical Examination
   General Appearance: following commands
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   331 K/uL
   99 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.8 mEq/L
   13 mg/dL
   100 mEq/L
   137 mEq/L
   31.5 %
   11.7 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
   WBC
   11.7
   Hct
   31.5
   Plt
   331
   Cr
   0.8
   TCO2
   30
   Glucose
   99
   Other labs: PT / PTT / INR:13.2/26.9/1.1, Lactic Acid:1.4 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Please see resident note for details - I agree with assment and plan as
   outlined there. Briefly, 68 year old man with PMH IPF, new left
   lingular mass reintubated post-bronch.  Major active issues as follows:
   RESPIRATORY FAILURE
 Underlying IPF, advanced.  Little in the way of
   new infiltrate , CT close to baseline so doubt acute exacerbation of
   IPF. RSBI < 100 today and alert, following commands.   Plan extubation
   trial today.   Plan maintain SaO2 >90%, and tolerate intermittent
   desaturations with activity if able to recover within short time span.
   HYPOTENSION
 attributed to sedation.  Normotensive off propofol.
   HEMOPTYSIS -- Scant, new left lingular mass, s/p biopsy, path pending.
   IPF
 Advanced.  Continue supplemental oxygen, maintain SaO2 >90%.
   further plans as per resident note
   ICU Care
   Nutrition:
   Comments: NPO, pending extubation
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2119-3-24**] 06:33 PM
   18 Gauge - [**2119-3-24**] 06:34 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   wife due in today - will meet to discuss mass/biopsy
   Code status: Full code
   Disposition :ICU for now
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Extubated earlier today.  Remains extubated.  Experiences desaturation
   during coughing, but with rapid recovery.  Continue to monitor.
   Maintain SaO2 >90%.  Tolerate transient desaturations if followed by
   rapid recovery.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2119-3-25**] 18:19 ------

2119-03-26 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   extubated
   lots of secretions with increased work of breathing later in the day,
   febrile to 101, recultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-3-25**] 08:04 PM
   Azithromycin - [**2119-3-25**] 08:05 PM
   Piperacillin - [**2119-3-26**] 12:21 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2119-3-25**] 07:43 AM
   Omeprazole (Prilosec) - [**2119-3-25**] 07:43 AM
   Lorazepam (Ativan) - [**2119-3-25**] 03:10 PM
   Furosemide (Lasix) - [**2119-3-25**] 05:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-26**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.5
C (99.5
   HR: 83 (67 - 108) bpm
   BP: 110/64(75) {95/49(60) - 133/89(92)} mmHg
   RR: 33 (19 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,852 mL
                                                                    320 mL
   PO:
                                                                    150 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,612 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    365 mL
   Urine:
                                                                  2,455 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -603 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 100%
   SpO2: 95%
   ABG: ///30/
   Ve: 17.4 L/min
   Physical Examination
   General Sitting up in bed, appears uncomfortable and anxious with
   sedation down
   HEENT Anicteric
   Pulm Few wheezes and bilateral lower field rales
   CV Regular S1 S2 no m/r/g
   Abd Soft nontender +bowel sounds
   Extrem Warm no edema
   Awake, follows commands
   Labs / Radiology
   375 K/uL
   10.6 g/dL
   101 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   14 mg/dL
   96 mEq/L
   138 mEq/L
   31.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
   WBC
   11.7
   10.9
   Hct
   31.5
   31.8
   Plt
   331
   375
   Cr
   0.8
   0.8
   TCO2
   30
   Glucose
   99
   101
   Other labs: PT / PTT / INR:13.2/26.9/1.1, Differential-Neuts:83.2 %,
   Lymph:8.7 %, Mono:3.8 %, Eos:4.0 %, Lactic Acid:1.4 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Micro
   [**3-25**] sputum >25 polys no organisms cx NGTD
   [**3-25**], [**3-26**] blood cultures NGTD
   [**3-23**] urine legionella negative
   Other micro negative/no growth
   CXR [**3-25**]
   Endotracheal tube has been removed. There are again seen diffuse
   airspace
   opacities which are unchanged and consistent with the patient's known
   diagnosis of interstitial pulmonary fibrosis. There is no increase in
   consolidations. Cardiac silhouette is within normal limits.
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with hypoxia
   despite treatment with PNA, found to have left lingular mass on rigid
   bronch [**3-24**], in MICU for failed exubation s/p bronch.
   .
   # Fevers
   Suspect pna  with increased sputum, cough
 in the setting of recent
   ventilation.
   Other noninfectious causes to consider in him seem less likely.
   Consider  clot, lung CA, drug fever. Latter seems less likely as no
   eos.
   - follow up sputum culture, other micro and CIS
   - continue vanc/zosyn/azithro for now
 will add cipro for additional
   gram negative coverage
   # Dyspnea
   Worsening SOB on presentation may have been due to Pna, IPF
   exacerbation, pulmonary hemorrhage. Does not appear significantly fluid
   overloaded currently
   Discussed with the patient that he is on the verge of needing
   intubation. He is not yet sure if he wants to back on a ventilator and
   wants some time to think this over.
   - treating for pna as above
   - IPF trial drug (perfenidone) on hold for now
   - Solumedrol
   - Given small amount of hemoptysis will hold on anticoagulation for
   now.
   - pursue further diuresis goal -1L as tolerated
   # L lingular mass: Concern for primary lung CA. Found to have new L
   lingular mass on bronchoscopy today which can likely explain his
   symptoms of cough, hemoptysis. Biopsies of two LNs were also taken
   during bronch. No evidence of infection (fever, leukocytosis, left
   shift, positive cultures) so far on hospital stay
   - f/u pathology specimens
   - pending path, may need oncology involvement for treatment, further
   workup to r/o metastases
   - patient still not aware of results of bronch, wife wishes to be
   present during this discussion after her is extubated
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold medications for IPF
   - adding
   .
   # GERD/hiatal hernia:
   -Continue omeprazole.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-3-25**] 03:30 PM
   Prophylaxis:
   DVT: mechanical boots
 pt refusing heparin
   Stress ulcer: PPI
   Communication:  with wife
   [**Name (NI) 36**] status: full
   Disposition: ICU

2119-03-26 10:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory Insuffciency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday morning, but still requiring high Fi02 and fever
   yesterday. Increased secretions
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2119-3-25**] 08:30 AM
 BLOOD CULTURED - At [**2119-3-25**] 04:00 PM
 URINE CULTURE - At [**2119-3-25**] 04:00 PM
 FEVER - 101.8
F - [**2119-3-25**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-3-25**] 08:05 PM
   Piperacillin - [**2119-3-26**] 08:11 AM
   Vancomycin - [**2119-3-26**] 08:30 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2119-3-25**] 03:10 PM
   Furosemide (Lasix) - [**2119-3-25**] 05:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No chest pain
   Respiratory: Cough, Dyspnea, Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2119-3-26**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.3
C (99.2
   HR: 88 (75 - 108) bpm
   BP: 119/74(85) {95/49(60) - 133/78(90)} mmHg
   RR: 30 (19 - 37) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,852 mL
                                                                    687 mL
   PO:
                                                                    150 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,612 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  2,455 mL
                                                                    440 mL
   Urine:
                                                                  2,455 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -603 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   375 K/uL
   101 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.6 mEq/L
   14 mg/dL
   96 mEq/L
   138 mEq/L
   31.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
   WBC
   11.7
   10.9
   Hct
   31.5
   31.8
   Plt
   331
   375
   Cr
   0.8
   0.8
   TCO2
   30
   Glucose
   99
   101
   Other labs: PT / PTT / INR:13.2/26.9/1.1, Differential-Neuts:83.2 %,
   Lymph:8.7 %, Mono:3.8 %, Eos:4.0 %, Lactic Acid:1.4 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Microbiology: Polys, no orgs on sputum gram stain.
   Assessment and Plan
   68 year old man with IPF, s/p extubation but with marginal respiratory
   status , increasing secretions and now new fever. Has broad coverage
   with vanc + zosyn , would add
   additional gram negative [**Doctor Last Name **] today in light of apparent deterioration
   on that regimen. Continue aggresive diuresis today. We have little in
   the way of imaging evidence for an acute exacerbation of IPF
   and good history (secretions, fever) for new HAP/VAP. That said, he has
   recieved long and broad abx coverage without dramatic improvement. I
   think in light of that exacerbation has to be considered and I would
   favor adding steroids at this point, with cont. abx. Would not
   anticoagulate given complicationss at bronch and ongoing hemoptysis ,
   but perhaps this can be revisited if bleeding stabilizes. Also possible
   that he has PE given likely diagnosis of lung CA and worsening
   hypoxemia but with fever and secretions I think this is less likely.
   Overall, high risk for re-intubation. I have spoken with the patient
   and he is unsure if he would want ot re-intubated. Plan to meet with
   the patient and his wife later this morning. For now would hold off on
   intubation in any case as long as sats are stable and no further
   increase in WOB. Risk of VILI is quiet high and would prefer to avoid
   mechanical ventilation if we can. I agree with the remainder of the
   plan as outlined in the resident note.
   ICU Care
   Nutrition:
   Comments: NPO givne possible need for intubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2119-3-25**] 03:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2119-03-27 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - was only -500cc at MN so gave 20IV lasix
   - added steroids for? IPF exacerbation
   - switched PO PPI to IV
   - CXR worse right sided opacities today, increased secretions and
   slight increased WOB but held sats on 5-6L FM
   - expanded gram negatives for cont spikes / added Cipro
   - if still desats tomorrow consider TTE as can't tolerate CTA
   - continuing lasix today with goal -1L
   - got facemask down to 60% but desat to 89-90 and WOB up so we went
   back to 6L FM at 80%
   Subjective: feels a little better today, less SOB, less sputum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-3-25**] 08:05 PM
   Piperacillin - [**2119-3-26**] 04:41 PM
   Vancomycin - [**2119-3-26**] 08:32 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-26**] 11:30 PM
   Ciprofloxacin - [**2119-3-26**] 11:59 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-26**] 08:31 PM
   Furosemide (Lasix) - [**2119-3-27**] 12:26 AM
   Lorazepam (Ativan) - [**2119-3-27**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-27**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.7
C (96.3
   HR: 60 (53 - 88) bpm
   BP: 107/65(74) {87/50(57) - 132/89(94)} mmHg
   RR: 23 (19 - 36) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,701 mL
                                                                     37 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,551 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    685 mL
   Urine:
                                                                  2,360 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -659 mL
                                                                   -648 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///30/
   Physical Examination
   General Mildly tachypneic, but appears more comfortable
   HEENT anicteric
   Pulm lungs with bilateral rales coarse at bases, less coarse L mid
   field
   CV regular S1 S2 no m/r/g
   Abd soft nontender +bowel sounds
   Extrem warm no edema
   Labs / Radiology
   373 K/uL
   11.3 g/dL
   164 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   23 mg/dL
   97 mEq/L
   139 mEq/L
   33.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
   WBC
   11.7
   10.9
   11.1
   Hct
   31.5
   31.8
   33.5
   Plt
   [**Telephone/Fax (3) 14544**]
   Cr
   0.8
   0.8
   0.7
   TCO2
   30
   Glucose
   99
   101
   164
   Other labs: PT / PTT / INR:12.3/24.8/1.0, Differential-Neuts:83.2 %,
   Lymph:8.7 %, Mono:3.8 %, Eos:4.0 %, Lactic Acid:1.4 mmol/L, Ca++:9.3
   mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with hypoxia
   despite treatment with PNA, found to have left lingular mass on rigid
   bronch [**3-24**], in MICU for failed extubation s/p bronch being treated for
   HAP.
   .
   # Fevers
   Suspect pna  with increased sputum, cough
 in the setting of recent
   ventilation.
   Fevers now improved, but in setting of steroids yesterday
 no fever
   for more than 24 hours
   Other noninfectious causes to consider in him seem less likely.
   Consider  clot, lung CA, drug fever. Latter seems less likely as no
   eos.
   - follow up sputum culture, other micro and CIS
   - continue vanc /zosyn and cipro d#2
 plan for 10 day course
   # Dyspnea
   SOB is improved, unclear if this reflects steroids or delayed abx
   effect. Still with increased O2 requirement
   Worsening SOB on presentation may have been due to Pna, IPF
   exacerbation, pulmonary hemorrhage. Had some diuresis yesterday which
   may have helped patient
   - treating for pna as above
   - IPF trial drug (perfenidone) on hold for now
   - Given small amount of hemoptysis will hold on anticoagulation for
   now.
   - continue lasix with goal -1L as tolerated
   # L lingular mass: Concern for primary lung CA. Found to have new L
   lingular mass on bronchoscopy which can likely explain his symptoms of
   cough, hemoptysis. Biopsies of two LNs were also taken during bronch.
   No evidence of infection (fever, leukocytosis, left shift, positive
   cultures) so far on hospital stay
   - f/u pathology specimens
   - pending path, may need oncology involvement for treatment, further
   workup to r/o metastases
   - patient still not aware of results of bronch, wife wishes to be
   present during this discussion after her is extubated
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold medications for IPF
   - continue IV steroids (day#2 today)
   .
   # GERD/hiatal hernia:
   -Continue omeprazole.
   ICU Care
   Nutrition:
   Glycemic Control:  no nutrition for several days, order for IR
 placed
   Dophoff tube
   Lines:
   20 Gauge - [**2119-3-25**] 03:29 PM
   18 Gauge - [**2119-3-27**] 12:01 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  Chest PT, suctioning
   Comments:
   Communication:  Comments: Family
   Code status: Full code. Would be intubated for brief period, but may
   not want long term intubation
   Disposition: ICU

2119-03-27 10:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M with IPF, with progressive respiratory failure as outpatient
   over past few weeks, not improving with PO antibiotics, admitted for IV
   antibiotics.  Since admission, he initially defervesced with initiation
   of vancomycin and cefepime.  He developed some hemoptysis on the
   floor.  He had bronchoscopy with IP evaluation with finding of an
   airway obstrcuting mass in the lingula concerning for malignancy.  He
   developed worsening respiratory failure after the procedure requiring
   reintubation.  He has since been extubated in the ICU but remains with
   tenuous respiratory status.
   24 Hour Events:
   increased work-of-breathing during the day on [**3-26**]
   Started on solumedrol and diuresis increased
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-3-25**] 08:05 PM
   Piperacillin - [**2119-3-26**] 04:41 PM
   Ciprofloxacin - [**2119-3-26**] 11:59 PM
   Vancomycin - [**2119-3-27**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-26**] 08:31 PM
   Furosemide (Lasix) - [**2119-3-27**] 12:26 AM
   Lorazepam (Ativan) - [**2119-3-27**] 04:17 AM
   Other medications:
   zosyn
   heparin (refusing)
   methylpred 80 [**Hospital1 **]
   pantoprazole
   cipro
   vanc
   zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Productive cough which he is able to
get up,.
 Persistent dyspnea.  No
   chest pain. Decreased appetitie
   Flowsheet Data as of  [**2119-3-27**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.7
   HR: 73 (53 - 88) bpm
   BP: 109/75(84) {87/50(57) - 132/89(94)} mmHg
   RR: 26 (18 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,701 mL
                                                                    353 mL
   PO:
                                                                    150 mL
             TF:
   IVF:
                                                                  1,551 mL
                                                                    353 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    730 mL
   Urine:
                                                                  2,360 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -659 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General: Cyanotic, speaking in short sentences, tachypneic with
   speaking
   CV: S1/S2 rrr, no m/r/g
   CHEST: crackles at bases bilaterally
   ABD: soft, nt, nd
   EXT: cool, cyanotic, no edema
   Neuro: alert, interactive, responding to all commands, moving all
   extremities
   Labs / Radiology
   11.3 g/dL
   373 K/uL
   164 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   23 mg/dL
   97 mEq/L
   139 mEq/L
   33.5 %
   11.1 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
   WBC
   11.7
   10.9
   11.1
   Hct
   31.5
   31.8
   33.5
   Plt
   [**Telephone/Fax (3) 14544**]
   Cr
   0.8
   0.8
   0.7
   TCO2
   30
   Glucose
   99
   101
   164
   Other labs: PT / PTT / INR:12.3/24.8/1.0, Differential-Neuts:83.2 %,
   Lymph:8.7 %, Mono:3.8 %, Eos:4.0 %, Lactic Acid:1.4 mmol/L, Ca++:9.3
   mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   CXR: bilateral opacities, stable
   Assessment and Plan
   68 yo M IPF who presents with hypoxemic respiratory failure after
   failed outpatient antibiotic courses.  His hospital course has been
   notable for defervescing once broad-spectrum abx started, hemoptysis
   for which he had a bronchoscopy that revealed an airway obstructing
   lingual mass which has been biopsied, and progression of respiratory
   failure after bronchoscopy.
   1. Hypoxemic respiratory failure: ? aspiration, pneumonia, IPF flare,
   hematemesis
    - cont vanc/cipro/zosyn x 10 days - for presumes CAP
    - cont methylprednisone 80 [**Hospital1 **] for presumed IPF flare
    - cont aim tbb negative (will aim - 1L with lasix)
    - aspiration precautions
    - aggressive pulmonary toilet
   2. Pulmonary mass concerning for malignancy:
    - awaiting pathology
   3. FEN: difficulty taking POs
   - will place doboff for tube feeds
   ICU Care
   Nutrition:  will start tube feeds once doboff placed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2119-3-25**] 03:29 PM
   18 Gauge - [**2119-3-27**] 12:01 AM
   Comments: PICC for IV antibiotics
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2119-03-28 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Path came back moderately differentiated squamous cell CA. Dr.
   [**Last Name (STitle) **] came to discuss with family who is aware of results. Will see
   how patient' status trends in next 24-48 hours with continued abx,
   diuresis, steroids before deciding on pursuing onc treatment
   - PICC placed successfully
   - Given 20mg IV lasix x 2 for diuresis
   - Given 1mg morphine x 2 for tachypnea, anxiety, which helped patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-3-25**] 08:05 PM
   Piperacillin - [**2119-3-26**] 04:41 PM
   Vancomycin - [**2119-3-27**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-28**] 12:30 AM
   Ciprofloxacin - [**2119-3-28**] 01:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-27**] 08:00 PM
   Furosemide (Lasix) - [**2119-3-27**] 08:00 PM
   Lorazepam (Ativan) - [**2119-3-27**] 09:40 PM
   Morphine Sulfate - [**2119-3-28**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-28**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 54 (54 - 79) bpm
   BP: 101/67(75) {95/46(57) - 132/82(91)} mmHg
   RR: 18 (15 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  1,190 mL
                                                                    387 mL
   PO:
             TF:
   IVF:
                                                                  1,190 mL
                                                                    387 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    365 mL
   Urine:
                                                                  2,280 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///35/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   414 K/uL
   10.9 g/dL
   152 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.6 mEq/L
   31 mg/dL
   98 mEq/L
   143 mEq/L
   32.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
   WBC
   11.7
   10.9
   11.1
   15.5
   Hct
   31.5
   31.8
   33.5
   32.9
   Plt
   [**Telephone/Fax (3) 14565**]14
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   TCO2
   30
   Glucose
   99
   101
   164
   155
   152
   Other labs: PT / PTT / INR:12.4/22.4/1.0, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.5
   mg/dL
   CXR bilateral infiltrates as before, but decreased on the R today
   Micro
   [**3-25**] sputum cx NGTD
   [**3-25**] urine cx no growth
   [**3-25**], 11 blood cx NGTD
   Other micro NGTD/negative
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with hypoxia
   despite treatment with PNA, found to have left lingular mass on rigid
   bronch [**3-24**], in MICU for failed extubation s/p bronch being treated for
   HAP.
   .
   # Fevers
   Suspect pna  with increased sputum, cough
 in the setting of recent
   ventilation.
   Fevers now improved, but in setting of steroids yesterday
 no fever
   for more than 24 hours
   Other noninfectious causes to consider in him seem less likely.
   Consider  clot, lung CA, drug fever. Latter seems less likely as no
   eos.
   - follow up sputum culture, other micro and CIS
   - continue vanc /zosyn and cipro d#2
 plan for 10 day course
   # Dyspnea
   SOB is improved, unclear if this reflects steroids or delayed abx
   effect. Still with increased O2 requirement
   Worsening SOB on presentation may have been due to Pna, IPF
   exacerbation, pulmonary hemorrhage. Had some diuresis yesterday which
   may have helped patient
   - treating for pna as above
   - IPF trial drug (perfenidone) on hold for now
   - Given small amount of hemoptysis will hold on anticoagulation for
   now.
   - continue lasix with goal -1L as tolerated
   # L lingular mass: Concern for primary lung CA. Found to have new L
   lingular mass on bronchoscopy which can likely explain his symptoms of
   cough, hemoptysis. Biopsies of two LNs were also taken during bronch.
   No evidence of infection (fever, leukocytosis, left shift, positive
   cultures) so far on hospital stay
   - f/u pathology specimens
   - pending path, may need oncology involvement for treatment, further
   workup to r/o metastases
   - patient still not aware of results of bronch, wife wishes to be
   present during this discussion after her is extubated
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold medications for IPF
   - continue IV steroids (day#2 today)
   .
   # GERD/hiatal hernia:
   -Continue omeprazole.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-3-27**] 12:01 AM
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-03-28 11:38:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M IPF, who presented with respiratory failure, likely related to
   pna vs ipf flare, now found to have metastatic squamous cell carcinoma
   24 Hour Events:
   PICC line placed
   Biopsy results consistent with SCC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2119-3-25**] 08:05 PM
   Piperacillin - [**2119-3-26**] 04:41 PM
   Ciprofloxacin - [**2119-3-28**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-28**] 08:00 AM
   Vancomycin - [**2119-3-28**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-27**] 08:00 PM
   Furosemide (Lasix) - [**2119-3-27**] 08:00 PM
   Lorazepam (Ativan) - [**2119-3-27**] 09:40 PM
   Morphine Sulfate - [**2119-3-28**] 01:35 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2119-3-28**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 64 (53 - 79) bpm
   BP: 117/66(79) {95/46(57) - 132/82(91)} mmHg
   RR: 25 (15 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,190 mL
                                                                    707 mL
   PO:
             TF:
   IVF:
                                                                  1,190 mL
                                                                    707 mL
   Blood products:
   Total out:
                                                                  2,280 mL
                                                                    660 mL
   Urine:
                                                                  2,280 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,090 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   414 K/uL
   152 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.6 mEq/L
   31 mg/dL
   98 mEq/L
   143 mEq/L
   32.9 %
   15.5 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
   WBC
   11.7
   10.9
   11.1
   15.5
   Hct
   31.5
   31.8
   33.5
   32.9
   Plt
   [**Telephone/Fax (3) 14565**]14
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   TCO2
   30
   Glucose
   99
   101
   164
   155
   152
   Other labs: PT / PTT / INR:12.4/22.4/1.0, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   1. hypoxemic respiratory failure: PNA + IPF flare
    - cont vanc/zosyn given tenuous respiratory status
    - cont IV solumedrol 80 [**Hospital1 **] today then prednisone 60 qday starting
   tomorrow
    - cont tbb negative 1L
    - cont prn morphine and ativan for air hunger and anxiety
   2. Lingular obstructing mass:
    - will hold off on heme/onc c/s for right now at patient's request, Dr
   [**Last Name (STitle) 2**] to see and advise regarding goals of care
    - if respiratory failure does not improve with diuresis, abx and
   prednisone, would consider XRT consult for palliation
   3. FEN: cont encourage PO intake, will hold off on doboff and tube
   feeds for patient comfort
   4. Goals of care:
    - patient in ongoing conversations with his family regarding overall
   goals of care given new finding of lung cancer
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-3-27**] 12:01 AM
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-03-29 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - path with lymph node involvement 1 of 2 specimens, discussed with
   family and patient
   - made DNR/DNI. very important for the patient to get home with family
   if not improving.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2119-3-26**] 04:41 PM
   Vancomycin - [**2119-3-28**] 08:00 PM
   Ciprofloxacin - [**2119-3-29**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-29**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-28**] 08:00 PM
   Morphine Sulfate - [**2119-3-28**] 10:00 PM
   Lorazepam (Ativan) - [**2119-3-28**] 11:00 PM
   Furosemide (Lasix) - [**2119-3-29**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-29**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.5
   HR: 56 (53 - 82) bpm
   BP: 111/67(77) {91/49(61) - 128/78(90)} mmHg
   RR: 19 (16 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,570 mL
                                                                    382 mL
   PO:
                                                                    240 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,330 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,716 mL
                                                                    700 mL
   Urine:
                                                                  1,716 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -146 mL
                                                                   -318 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///36/
   Physical Examination
   Gen: Alert, high flow mask and NC, able to speak sentences but tired
   HEENT: PERRL, JVD to 8cm at 45 degrees
   Lungs: Dry crackles all over lung
   CV: RR no murmurs
   Abd: soft NT
   Ext: Pneumoboots in place
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   462 K/uL
   11.3 g/dL
   137 mg/dL
   0.8 mg/dL
   36 mEq/L
   3.7 mEq/L
   34 mg/dL
   96 mEq/L
   142 mEq/L
   34.3 %
   14.1 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
   WBC
   11.7
   10.9
   11.1
   15.5
   14.1
   Hct
   31.5
   31.8
   33.5
   32.9
   34.3
   Plt
   [**Telephone/Fax (3) 14565**]14
   462
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TCO2
   30
   Glucose
   99
   101
   164
   155
   152
   137
   Other labs: PT / PTT / INR:12.4/22.4/1.0, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:9.7 mg/dL, Mg++:2.4 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with hypoxia
   despite treatment with PNA, found to have left lingular mass on rigid
   bronch [**3-24**], in MICU for failed extubation s/p bronch being treated for
   HAP and with continued hypoxemia
   .
   # Dyspnea/Respiratory failure
   SOB is improved, unclear if this reflects steroids or delayed abx
   effect. Still with increased O2 requirement despite treatment for last
   48 hours (on 80-100% high flow mask with 6L NC O2 with desaturations
   with eating). Worsening SOB on presentation may have been due to Pna,
   IPF exacerbation, pulmonary hemorrhage. Trying to wean down on O2
   requirements with diuresis
   - treating with abx for PNA
   - continue steroids to treat for IPF exacerbation
   - continue further diuresis today, IV lasix boluses for goal 1L
   negative
   - make nebs PRN
   - plan for conversation with outpatient pulmonologist today regarding
   goals/whether to pursue treatment options for left lung mass to help
   with respiratory failure
   # Pneumonia: R sided consolidation on CXR. Patient with some coughing
   after eating as diet had been advanced yesterday
   - speech and swallow consult today
   - aspiration precautions
   - follow up sputum culture, other micro and CIS
   - continue vanc (d9) /zosyn (d6) and cipro (d4)
 plan for 10 day
   course
   # Squamous cell lung CA: L lingular mass with spread to
 lymph node
   - f/u with Dr. [**Last Name (STitle) **] for whether to pursue oncology treatment
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold medications for IPF (perfenidone)
   - continue IV steroids (day#4 today)
   .
   #Agitation:
   -continue PRN ativan
   .
   # GERD/hiatal hernia:
   -Continue omeprazole.
   ICU Care
   Nutrition: Tolerating PO diet as tolerates with aspiration precautions
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-3-27**] 12:01 AM
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: Family at bedside
   Code status: DNR / DNI
   Disposition: ICU

2119-03-29 11:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M IPF, iniitially admitted for management of CAP, but found to
   have lingular obstructing mass + for SCC
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2119-3-26**] 04:41 PM
   Ciprofloxacin - [**2119-3-29**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-29**] 07:40 AM
   Vancomycin - [**2119-3-29**] 08:24 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-28**] 08:00 PM
   Morphine Sulfate - [**2119-3-28**] 10:00 PM
   Lorazepam (Ativan) - [**2119-3-28**] 11:00 PM
   Furosemide (Lasix) - [**2119-3-29**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-29**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 71 (56 - 82) bpm
   BP: 117/70(82) {91/43(56) - 128/80(90)} mmHg
   RR: 23 (15 - 35) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,570 mL
                                                                    903 mL
   PO:
                                                                    240 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,330 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  1,716 mL
                                                                  1,105 mL
   Urine:
                                                                  1,716 mL
                                                                  1,105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -146 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///38/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dry, bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   462 K/uL
   145 mg/dL
   0.8 mg/dL
   38 mEq/L
   3.8 mEq/L
   38 mg/dL
   96 mEq/L
   143 mEq/L
   34.3 %
   14.1 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
   WBC
   11.7
   10.9
   11.1
   15.5
   14.1
   Hct
   31.5
   31.8
   33.5
   32.9
   34.3
   Plt
   [**Telephone/Fax (3) 14565**]14
   462
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.8
   TCO2
   30
   Glucose
   99
   101
   164
   155
   152
   137
   145
   Other labs: PT / PTT / INR:13.3/22.5/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   68 yo M IPF presents with respiratory failure, and found to have L
   lingular mass biopsy proven SCC
   1. Hypoxemia: Likely [**1-17**] IPF with possible pneumonia, volume and
   potential aspiration
    - oob to chair
    - speach language pathology evaluation today
    - aspiration precautions
    - will continue diuresis -1L today
    - cont vanc/zosyn
    - cont solumedrol for now but will likely decrease to prednisone
   2. SCC with + LN:
    - will await further therapeutic action until we are able to assess
   improvement in respiratory status
   3. FEN: currently on house diet but will follow-up with slp
   regardingmost appropriate diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-3-27**] 12:01 AM
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Boots/ Hep SQ tid
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-03-30 07:38:00 Physician Resident Progress Note
Chief Complaint:
   68yo M with hypoxia and severe IPF with new diagnosis of squamous cell
   lung cancer
   24 Hour Events:
   - spoke w/ Dr. [**Last Name (STitle) 2**] - continue current dose steroids
   - added speech/swallow consult --passed , no significant difficulty
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2119-3-29**] 08:00 PM
   Ciprofloxacin - [**2119-3-30**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-30**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-29**] 08:00 PM
   Morphine Sulfate - [**2119-3-29**] 10:00 PM
   Lorazepam (Ativan) - [**2119-3-29**] 11:15 PM
   Furosemide (Lasix) - [**2119-3-30**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-30**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 50 (50 - 86) bpm
   BP: 108/62(72) {89/43(56) - 135/81(90)} mmHg
   RR: 16 (15 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                  2,480 mL
                                                                    438 mL
   PO:
                                                                  1,200 mL
             TF:
   IVF:
                                                                  1,280 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                  1,110 mL
   Urine:
                                                                  2,535 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -55 mL
                                                                   -672 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///39/
   Physical Examination:
   General :  Alert, awake, high flow mask in place, able to speak
   sentences, but will tire out
   HEENT: PERRL
   Lungs: Moderate air movement, occasional wheezes, dry crackles in all
   lung fields
   CVS: RR, no murmurs
   EXT: WWP
   Labs / Radiology
   424 K/uL
   11.3 g/dL
   125 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.6 mEq/L
   34 mg/dL
   97 mEq/L
   141 mEq/L
   34.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
   WBC
   11.7
   10.9
   11.1
   15.5
   14.1
   13.7
   Hct
   31.5
   31.8
   33.5
   32.9
   34.3
   34.7
   Plt
   [**Telephone/Fax (3) 14592**]
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   TCO2
   30
   Glucose
   99
   101
   164
   155
   152
   137
   145
   140
   125
   Other labs: PT / PTT / INR:13.3/22.5/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.6
   mg/dL
   [**3-25**] urine negative
   4/10,[**3-26**] blood cx NGTD
   [**3-25**] sputum cx no growth
   Other micro negative/pending
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with hypoxia
   despite treatment with PNA, found to have new squamous cell lung ca &
   in MICU for failed extubation s/p bronch being treated for HAP and with
   continued hypoxemia
   .
   # Dyspnea/Respiratory failure
   SOB is improved, unclear if this reflects steroids or delayed abx
   effect. Still with increased O2 requirement despite treatment for last
   72 hours (on 60% high flow mask with 6L NC O2 with desaturations with
   eating). Worsening SOB on presentation may have been due to Pna, IPF
   exacerbation, pulmonary hemorrhage. Trying to wean down on O2
   requirements with diuresis
   - treating with abx for PNA
   - continue steroids to treat for IPF exacerbation; current dose
   - continue further diuresis today, switch to lasix drip, goal I/O
   negative 1L
   - goal to wean down O2 requirement where may be able to go to floor,
   not yet ready today
   # Pneumonia: R sided consolidation on CXR. Patient with some coughing
   after eating as diet had been advanced yesterday. Patient passed
   speech/swallow test today
   - aspiration precautions
   - follow up sputum culture, other micro and CIS
   - d/c Cipro today
   - continue vanc (d9) /zosyn (d6)
 plan for 10 day course
   # Squamous cell lung CA: L lingular mass with spread to 1 of 2  lymph
   nodes
   - f/u with Dr. [**Last Name (STitle) **] recs
   - f/up Oncology and Rad/Onc consults today regarding whether have
   treatment options for palliation, symptom control
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold medications for IPF (perfenidone)
   - continue IV steroids (day#4 today)
   .
   #Agitation:
   -continue PRN ativan & morphine
   .
   # GERD/hiatal hernia:
   -Continue protonix 40mg q daily
   ICU Care
   Nutrition: encourage PO intake
   Glycemic Control:  SSI continue
   Lines:
   18 Gauge - [**2119-3-27**] 12:01 AM
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
                   Bowel reg PRN colace
   DVT:  boots, SC heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: Family at bedside, wife as main provider
   [**Name9 (PRE) 36**] status: DNR / DNI
   Disposition: ICU for now

2119-03-30 12:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   able to decrease supplemental O2 to 50% facemask and 6L nasal cannula
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-3-30**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-30**] 07:43 AM
   Vancomycin - [**2119-3-30**] 08:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-29**] 08:00 PM
   Morphine Sulfate - [**2119-3-29**] 10:00 PM
   Lorazepam (Ativan) - [**2119-3-29**] 11:15 PM
   Furosemide (Lasix) - [**2119-3-30**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-30**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 66 (50 - 86) bpm
   BP: 111/55(68) {89/48(57) - 135/81(90)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,480 mL
                                                                  1,160 mL
   PO:
                                                                  1,200 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  1,280 mL
                                                                    760 mL
   Blood products:
   Total out:
                                                                  2,535 mL
                                                                  1,275 mL
   Urine:
                                                                  2,535 mL
                                                                  1,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -55 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///39/
   Physical Examination
   General: weak appearing, pleasant, sitting up in chair
   HEENT: PERRL, EOMI, facemask in place
   CV: S1/S2, RRR, no m
   CHEST: Dry crackles midway bilaterally
   ABD: soft, nt, nd
   EXT: warm, mild peripheral cyanosis, no edema
   DP and radial pulses present
   No focal neuro deficits, moving all extremities with equal strength
   throughout, oriented to person, place, time, conversant.
   Labs / Radiology
   11.3 g/dL
   424 K/uL
   125 mg/dL
   0.9 mg/dL
   39 mEq/L
   4.6 mEq/L
   34 mg/dL
   97 mEq/L
   141 mEq/L
   34.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2119-3-24**]  08:34 PM
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
   WBC
   11.7
   10.9
   11.1
   15.5
   14.1
   13.7
   Hct
   31.5
   31.8
   33.5
   32.9
   34.3
   34.7
   Plt
   [**Telephone/Fax (3) 14592**]
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   TCO2
   30
   Glucose
   99
   101
   164
   155
   152
   137
   145
   140
   125
   Other labs: PT / PTT / INR:13.3/22.5/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   68 yo M IPF, former smoker, now found to have SCC, here w respiratory
   failure
   1. Respiratroy failure: likely multifactorial:
    - cont abx for presumed HAP [**8-25**] for vanc; [**5-25**] zosyn; will d/c cipro
    - Cont diuresis with lasix: aim TBB negative 1L (will start lasix gtt
   for this)
    - aggressive pulmonary toilet
    - encourage oob to chair
   2. SCC: l lingular mass involving [**12-17**] LN
    - will consult hemo/onc today for possible palliative options,
   possible XRT to involved area, will likely require staging w/u as outpt
   3. FEN: liberal diet
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-3-27**] 12:01 AM
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments: patient refusing sq heparin and will therefore discontinue
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-03-31 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started on lasix gtt overnight with goal 1L out overnight
   - rad onc and oncology consulted regarding treatment options for
   pathology of L lung mass which came back squamous cell carcinoma
   - cipro discontinued
   - continued to try to wean down on O2 requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-3-30**] 12:05 PM
   Vancomycin - [**2119-3-30**] 08:20 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-31**] 12:03 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2119-3-30**] 08:00 AM
   Pantoprazole (Protonix) - [**2119-3-30**] 08:30 PM
   Lorazepam (Ativan) - [**2119-3-30**] 10:07 PM
   Morphine Sulfate - [**2119-3-30**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-31**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 53 (53 - 94) bpm
   BP: 111/61(73) {104/47(61) - 141/78(90)} mmHg
   RR: 17 (17 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,232 mL
                                                                    170 mL
   PO:
                                                                    850 mL
             TF:
   IVF:
                                                                  1,382 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    890 mL
   Urine:
                                                                  2,585 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                   -720 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///36/
   Physical Examination
   Alert, awake, high flow mask on, able to speak short sentences but will
   tire
   HEENT: PERRL
   Lungs: Dry bibasilar crackles but scattered expiratory wheezes
   CV: RR, no murmurs
   Abd: soft, obese
   Ext: WWP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   424 K/uL
   11.3 g/dL
   157 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.7 mEq/L
   33 mg/dL
   96 mEq/L
   139 mEq/L
   34.7 %
   13.7 K/uL
        [image002.jpg]
                             [**2119-3-25**]  04:04 AM
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
   WBC
   11.7
   10.9
   11.1
   15.5
   14.1
   13.7
   Hct
   31.5
   31.8
   33.5
   32.9
   34.3
   34.7
   Plt
   [**Telephone/Fax (2) 14592**]
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   0.9
   Glucose
   99
   101
   164
   155
   152
   137
   145
   140
   125
   157
   Other labs: PT / PTT / INR:13.3/22.5/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with hypoxia
   despite treatment with PNA, found to have new squamous cell lung ca &
   in MICU for failed extubation s/p bronch being treated for HAP and with
   continued hypoxemia
   .
   # Dyspnea/Respiratory failure
   Still with increased O2 requirement despite treatment for last 4 days
   (on 50% high flow mask with 6L NC O2 with desaturations with eating).
   Worsening SOB on presentation may have been due to Pna, IPF
   exacerbation, pulmonary hemorrhage. Trying to wean down on O2
   requirements with diuresis
   - treating with abx for PNA
   - continue steroids to treat for IPF exacerbation; current dose
   - switch lasix
   - goal to wean down O2 requirement where may be able to go to floor,
   not yet ready today
   # Pneumonia: R sided consolidation on CXR. Patient with some coughing
   after eating as diet had been advanced yesterday. Patient passed
   speech/swallow test today
   - aspiration precautions
   - follow up sputum culture, other micro and CIS
   - d/c Cipro today
   - continue vanc (d10) /zosyn (d7)
 plan for 10 day course
   # Squamous cell lung CA: L lingular mass with spread to 1 of 2  lymph
   nodes
   - f/u with Dr. [**Last Name (STitle) **] recs
   - f/up Oncology and Rad/Onc consults today regarding whether have
   treatment options for palliation, symptom control
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold medications for IPF (perfenidone)
   - continue IV steroids (day#4 today)
   .
   #Agitation:
   -continue PRN ativan & morphine
   .
   # GERD/hiatal hernia:
   -Continue protonix 40mg q daily
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2119-3-27**] 12:01 AM
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2119-03-31 12:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M IPF who initially prsented with presumed CAP for IV
   antibioitcs, his hospital course was notable for development of
   hemoptysis and on f/u bronchoscopy he was found to have lingular
   obstructing pulmonary mass.  The biopsy has demonstrated SCLCA.
   24 Hour Events:
   weaning down supplemental oxygen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-3-30**] 12:05 PM
   Vancomycin - [**2119-3-31**] 09:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-3-31**] 09:28 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-30**] 08:30 PM
   Lorazepam (Ativan) - [**2119-3-31**] 07:59 AM
   Morphine Sulfate - [**2119-3-31**] 07:59 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-3-31**] 12:49 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.2
   HR: 94 (53 - 94) bpm
   BP: 121/64(81) {104/47(61) - 141/79(90)} mmHg
   RR: 32 (16 - 36) insp/min
   SpO2: 88%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,232 mL
                                                                    761 mL
   PO:
                                                                    850 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,382 mL
                                                                    521 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                  1,510 mL
   Urine:
                                                                  2,585 mL
                                                                  1,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -353 mL
                                                                   -749 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 88%
   ABG: ///36/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : , Wheezes : scattered
   end exp wheeze w musical quality)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, time, Movement: Not assessed, Tone: Decreased
   Labs / Radiology
   11.6 g/dL
   406 K/uL
   122 mg/dL
   0.9 mg/dL
   36 mEq/L
   3.8 mEq/L
   29 mg/dL
   96 mEq/L
   142 mEq/L
   36.3 %
   15.5 K/uL
        [image002.jpg]
                             [**2119-3-26**]  03:17 AM
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
   WBC
   10.9
   11.1
   15.5
   14.1
   13.7
   15.5
   Hct
   31.8
   33.5
   32.9
   34.3
   34.7
   36.3
   Plt
   375
   373
   414
   462
   424
   406
   Cr
   0.8
   0.7
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   0.9
   0.9
   Glucose
   101
   164
   155
   152
   137
   145
   140
   125
   157
   122
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   68 yo M IPF, recent diagnosis squamous cell ca, in ICU with respiratory
   failure
   1. Respiratory failure:
    - comlete vanc.zosyn course
    - continue IV solumedrol
    - will change lasix to po 40 q 8 hours
    - will consult heme-onc to touch base with patient
    - patient not a current candidate for radiation therapy
   2. malignancy:
    - will consult hematology-oncology to touch base with patient
   regarding future options
   ICU Care
   Nutrition:
   Comments: full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2119-3-27**] 12:01 AM
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-04-01 06:46:00 Physician Resident Progress Note
Chief Complaint:
   68yo M with severe IPF,  HAP and new diagnosis of lung cancer
   24 Hour Events:
   - no major events, onc did not come by
 awaiting consult recs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-3-30**] 12:05 PM
   Vancomycin - [**2119-3-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-1**] 12:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-31**] 08:00 PM
   Lorazepam (Ativan) - [**2119-4-1**] 12:15 AM
   Morphine Sulfate - [**2119-4-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-1**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 69 (58 - 94) bpm
   BP: 126/71(84) {104/52(67) - 152/132(112)} mmHg
   RR: 23 (16 - 34) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,218 mL
                                                                    134 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    978 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    860 mL
   Urine:
                                                                  2,150 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -932 mL
                                                                   -726 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///34/
   Physical Examination
   Alert, awake, high flow mask on, able to speak short sentences but will
   tire
   HEENT: PERRL
   Lungs: Dry bibasilar crackles, rales to R midlungfield, scattered
   expiratory wheezes
   CV: RR, no murmurs
   Abd: soft, nontender
   Ext: WWP
   Labs / Radiology
   406 K/uL
   11.6 g/dL
   145 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.4 mEq/L
   29 mg/dL
   97 mEq/L
   141 mEq/L
   36.3 %
   15.5 K/uL
        [image002.jpg]
                             [**2119-3-27**]  04:00 AM
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
   WBC
   11.1
   15.5
   14.1
   13.7
   15.5
   Hct
   33.5
   32.9
   34.3
   34.7
   36.3
   Plt
   373
   414
   462
   424
   406
   Cr
   0.7
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   Glucose
   164
   155
   152
   137
   145
   140
   125
   157
   122
   145
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.7
   mg/dL
   Micro none new
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with hypoxia
   despite treatment with PNA, found to have new squamous cell lung ca &
   in MICU for failed extubation s/p bronch being treated for HAP and with
   continued hypoxemia
   .
   # Dyspnea/Respiratory failure
   Still with significant O2 requirement. Worsening SOB on presentation
   may have been due to Pna, IPF exacerbation, pulmonary hemorrhage.
   - complete 10d course of zosyn today & will d/c tomorrow and will plan
   to d/c Vanco tomorrow as well ( day 12 today)
   - switch to PO steroids today, continue to taper as tolerates for IPF
   exacerbation
   - switch lasix to PO, goal -500cc to 1L negative
   - goal to wean down O2 requirement where may be able to go to floor,
   not yet ready today as needing high FiO2 FM
   - adding NAC to regimen
   # Pneumonia: R sided consolidation on CXR, now improved. No pathogens
   isolated. Passed speech and swallow evaluation.
   - continue vanc (d12), zosyn (d10)
   - follow up sputum culture, other micro and CIS
   # Squamous cell lung CA: L lingular mass with spread to 1 of 2  lymph
   nodes sampled during bronch
   - f/u with Dr. [**Last Name (STitle) **] recs
   - f/up Oncology and Rad/Onc consults regarding whether have treatment
   options for palliation, symptom control
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold medications for IPF (perfenidone)
   - switch IV to PO steroids
   .
   #Agitation:
   -continue PRN ativan & morphine
   .
   # GERD/hiatal hernia:
   -Continue protonix
   ICU Care
   Nutrition: regular diet as tolerated
   Glycemic Control:
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2119-04-01 10:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No significant overnight events.  Remains on same oxygen requirments.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-3-30**] 12:05 PM
   Vancomycin - [**2119-3-31**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-1**] 07:34 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-3-31**] 08:00 PM
   Lorazepam (Ativan) - [**2119-4-1**] 12:15 AM
   Morphine Sulfate - [**2119-4-1**] 06:15 AM
   Other medications:
   Solumedrol 80mg Q12, lasix 40mg Q8, RISS, Ativan PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-1**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36
C (96.8
   HR: 78 (58 - 94) bpm
   BP: 132/79(91) {104/59(70) - 152/132(112)} mmHg
   RR: 29 (16 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,218 mL
                                                                    732 mL
   PO:
                                                                    240 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    978 mL
                                                                    252 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                  1,090 mL
   Urine:
                                                                  2,150 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -932 mL
                                                                   -358 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress, Breathless with talking
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.6 g/dL
   394 K/uL
   101 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.3 mEq/L
   28 mg/dL
   98 mEq/L
   142 mEq/L
   35.8 %
   18.4 K/uL
        [image002.jpg]
                             [**2119-3-27**]  05:15 PM
                             [**2119-3-28**]  04:00 AM
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
   WBC
   15.5
   14.1
   13.7
   15.5
   18.4
   Hct
   32.9
   34.3
   34.7
   36.3
   35.8
   Plt
   [**Telephone/Fax (3) 14630**]06
   394
   Cr
   0.8
   0.8
   0.8
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   Glucose
   155
   152
   137
   145
   140
   125
   157
   122
   145
   101
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.7
   mg/dL
   Imaging: No new imaging
   Microbiology: Sputum Cx:  NGTD
   Assessment and Plan
   68 yo M IPF, recent diagnosis squamous cell ca, in ICU with respiratory
   failure
    1. Respiratory failure: Likely post-obstructive PNA +/- IPF acute
   exacerbation.
   - complete vanc.zosyn course today
   - Will transition from solumedrol to prednisone 60mg today.
   - TBB target even to slightly negative.
   - patient not a current candidate for radiation therapy
   -Doing better with morphine for breathlessness
    2. malignancy:
   - Heme-onc to see regarding any palliative options.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 31 minutes

2119-04-02 06:39:00 Physician Resident Progress Note
Chief Complaint:
   68yo M with severe IPF,  HAP and new diagnosis of lung cancer
   24 Hour Events:
   -spoke to oncology & they said will be by Sunday to staff 7 do formal
   consult
   - c/o stuffy nose, asked for Flonase
   - desaturated and needed to increase Fi02 from 60 to 95 to maintain
   sats >88% for few hours but then able to be weaned slowly back to Fio2
   60
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-3-30**] 12:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-1**] 07:34 AM
   Vancomycin - [**2119-4-1**] 08:00 PM
   Piperacillin - [**2119-4-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-4-1**] 08:00 PM
   Morphine Sulfate - [**2119-4-2**] 12:00 AM
   Lorazepam (Ativan) - [**2119-4-2**] 03:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-2**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 70 (66 - 99) bpm
   BP: 109/72(81) {104/52(66) - 136/79(125)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,220 mL
                                                                    583 mL
   PO:
                                                                  1,440 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    780 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                    780 mL
   Urine:
                                                                  2,780 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ///35/
   Physical Examination
   General:  using accessory respiratory muscles, NAD, on face mask and
   nasal cannula
   HEENT: EOMI, PERRL, OP clear
   CVS: S1/S2 regular, RRR, no murmurs or rubs
   LUNGS: diffuse crackles and coarse wheezes diffusely over both lung
   fields posteriorly and anteriorly
   ABD: NT/ND, normoactive bowel sounds
   EXT: boots, 2+ pedal pulses
   Labs / Radiology
   414 K/uL
   12.4 g/dL
   120 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   29 mg/dL
   93 mEq/L
   139 mEq/L
   37.3 %
   21.6 K/uL
        [image002.jpg]
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
                             [**2119-4-1**]  06:14 PM
                             [**2119-4-2**]  04:31 AM
   WBC
   14.1
   13.7
   15.5
   18.4
   21.6
   Hct
   34.3
   34.7
   36.3
   35.8
   37.3
   Plt
   462
   424
   406
   394
   414
   Cr
   0.8
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   1.0
   0.9
   Glucose
   137
   145
   140
   125
   157
   122
   145
   101
   198
   120
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with ongoing
   hypoxia despite treatment with PNA, found to have new squamous cell
   lung ca &  in MICU for failed extubation s/p bronch being treated for
   HAP and with continued hypoxemia overnight requiring higher oxygen
   requirement of 95%Fio2 on face mask.
   .
   # Dyspnea/Respiratory failure: Still with significant O2 requirement.
   Worsening SOB on presentation may have been multifactorial with PNA and
   concomitant  IPF exacerbation, & mild pulmonary hemorrhage.  Also has
   new diagnosis of squamous cell lung cancer.
   .
   -  will discontinue  zosyn (s/p 10 days) & discontinue vancomycin as
   well ( day 13 today)
   - will start  him on Cipro & Cefipime today given new CXR right sided
   question of infiltrate
   - continue PO steroids today, continue to taper as tolerates for IPF
   exacerbation
   - switch lasix to PO, goal -500cc to 1L negative
   - goal to wean down O2 requirement if can tolerate vs. movement toward
   comfort measures if worsens
   - continue NAC regimen
   # Pneumonia: R sided consolidation on CXR, now improved. No pathogens
   isolated. Passed speech and swallow evaluation.
   - follow up sputum culture, other micro and CIS
   - as above: will discontinue  zosyn (s/p 10 days) & discontinue
   vancomycin as well ( day 13 today)
   - will start  him on Cipro & Cefipime today given new CXR right sided
   question of infiltrate
   # Squamous cell lung CA: L lingular mass with spread to 1 of 2  lymph
   nodes sampled during bronch
   - f/u with Dr. [**Last Name (STitle) **]
   - new family meeting for goals of care discussion today
   - consider palliative care update
   - will  hold off on Oncology and Rad/Onc consults for now  given rapid
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold  perfenidone
   - continue PO steroids
   .
   #Agitation:
   -continue PRN ativan & will plan to increase morphine dose today
   .
   # GERD/hiatal hernia:
   -Continue protonix
   ICU Care
   Nutrition:  PO for comfort, Ensure shakes
   Glycemic Control:
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:   Abx as above
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2119-04-02 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experiencing more air hunger today.  Feels worn out.  Oxygen now up to
   95% + 6L/min.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-3-30**] 12:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-1**] 07:34 AM
   Vancomycin - [**2119-4-1**] 08:00 PM
   Piperacillin - [**2119-4-2**] 07:24 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-4-1**] 08:00 PM
   Morphine Sulfate - [**2119-4-2**] 07:07 AM
   Lorazepam (Ativan) - [**2119-4-2**] 07:23 AM
   Other medications:
   Prednisone 60mg, lasix 40mg TID, NAC (refused)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-2**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 68 (66 - 99) bpm
   BP: 120/71(83) {104/52(66) - 136/73(125)} mmHg
   RR: 22 (18 - 32) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,220 mL
                                                                    698 mL
   PO:
                                                                  1,440 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    780 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                  1,020 mL
   Urine:
                                                                  2,780 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -560 mL
                                                                   -322 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   FiO2: .95 +6L/min
   SpO2: 90%
   ABG: ///35/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   Throughout all lung fields), Using accessory muscles while at rest
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   414 K/uL
   120 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   29 mg/dL
   93 mEq/L
   139 mEq/L
   37.3 %
   21.6 K/uL
        [image002.jpg]
                             [**2119-3-28**]  05:30 PM
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
                             [**2119-4-1**]  06:14 PM
                             [**2119-4-2**]  04:31 AM
   WBC
   14.1
   13.7
   15.5
   18.4
   21.6
   Hct
   34.3
   34.7
   36.3
   35.8
   37.3
   Plt
   462
   424
   406
   394
   414
   Cr
   0.8
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   1.0
   0.9
   Glucose
   137
   145
   140
   125
   157
   122
   145
   101
   198
   120
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.1
   mg/dL
   Imaging: CXR:  Perhaps increase in R-sided opacities although film is
   less penetrated today.
   Assessment and Plan
   68 yo M IPF, recent diagnosis squamous cell ca, in ICU with respiratory
   failure
    1. Respiratory failure: Likely post-obstructive PNA +/- IPF acute
   exacerbation. Clearly worse today.  Leukocytosis and R-sided CXR change
   suggestive of new infection vs accelerated IPF
   - Will meet with family and patient when they come in to discuss
   goals.  He has expressed desire to return home, however, it seems
   unlikely at this point that this is a realistic goal.
   - Continue high dose steroids for now.
   -Will broaden to cefepime and ciprofloxacin in addition to vanco
   - TBB target even to slightly negative.
   - patient not a current candidate for radiation therapy
   -Will continue with morphine and ativan for air hunger
     2. malignancy:
   -Palliative care consult if family wishes.  No need for heme-onc
   consult at present.
   Rest of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2119-04-03 07:11:00 Physician Resident Progress Note
Chief Complaint: 68 yo male with IPF,  PNA and new diagnosis squamous
   cell lung cancer with continued hypoxemia despite multiple treatments
   (Abx, steroids, nebs, O2 )
   24 Hour Events:
   - CXR with worsened consolidation in right lung, abx changed to
   vanc/cefepime/cipro
   - Spoke with family about patient's weakening status, no further
   pursuing of oncology treatment workup. Patient still DNR/DNI, primary
   goal of comfort and support but still maintaining antibiotics
   - Morphine increased to Q2h and then to Q1hr when patient's breathing
   more tired, sats averaging high 80s, low 90s on 95% face mask. Family
   called.
   - This AM, patient weaker, with more air hunger
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2119-4-2**] 07:24 AM
   Vancomycin - [**2119-4-2**] 08:00 PM
   Cefipime - [**2119-4-3**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-3**] 12:30 AM
   Ciprofloxacin - [**2119-4-3**] 12:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-4-2**] 08:00 PM
   Lorazepam (Ativan) - [**2119-4-3**] 05:30 AM
   Morphine Sulfate - [**2119-4-3**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-3**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 78 (68 - 91) bpm
   BP: 107/68(77) {102/42(58) - 131/80(90)} mmHg
   RR: 22 (18 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,380 mL
                                                                    236 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                    930 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                    900 mL
   Urine:
                                                                  2,410 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,030 mL
                                                                   -664 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 93%
   ABG: ///35/
   Physical Examination
   General: appears pale, fatigued, using accessory muscles to breath,
   facemask in place
   HEENT: PERRL, facemask in place
   CVS: S1/S2 reg, RRR
   LUNGS:  coarse rhonchi laterally and anteriorly
   ABD:  nontender and nondistended, soft, NABS
   EXT:  2+ pedal pulses
   Labs / Radiology
   385 K/uL
   12.4 g/dL
   113 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   32 mg/dL
   94 mEq/L
   136 mEq/L
   38.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
                             [**2119-4-1**]  06:14 PM
                             [**2119-4-2**]  04:31 AM
                             [**2119-4-3**]  02:30 AM
   WBC
   14.1
   13.7
   15.5
   18.4
   21.6
   21.2
   Hct
   34.3
   34.7
   36.3
   35.8
   37.3
   38.5
   Plt
   462
   424
   406
   394
   414
   385
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   1.0
   0.9
   0.9
   Glucose
   145
   140
   125
   157
   122
   145
   101
   198
   120
   113
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with new
   diagnosis squamous cell lung cancer with continued hypoxemia despite
   treatment for PNA, IPF, diuresis with worsened respiratory status
   overnight requiring higher oxygen requirement and increased air hunger
   with main goal of comfort now
   .
   # Dyspnea/Respiratory failure: Worsened O2 requirement with
   desaturations with any removal of face mask. Still multifactorial
   causes for his worse WOB and hypoxia, including IPF,  worsened R sided
   infiltrate and underlying lung cancer.  Family discussions ongoing but
   primary goal to keep patient comfortable
 still maintaining
   antibiotics.
   .
   - titrated up morphine to Q1hr and also with PRN Ativan for respiratory
   distress
   - contact Dr. [**Last Name (STitle) **] [**Last Name (STitle) **], outpatient pulmonologist to touch base on
   recent decline x 48 hrs
   - continue Vanc/Cefepime/Cipro
   - continue nebs
   - f/u AM CXR today for interval changes
   - will switch back to IV Solumedrol today from PO Prednisone
   - continue supporting family /meeting today
 social work involved, can
   talk to family regarding palliative care additions
   .
   # Pneumonia:  Patient has a right sided consolidation on CXR, worsened
   in last 48 hrs with no pathogens isolated. Unclear if new PNA spread or
   IPF. Antibiotics switched with aim for double coverage for pseudomonas
   - follow up sputum culture, other micro and CIS
   - continue vanc/cefepime/cipro for now
   - f/u CXR as above
   .
   # Squamous cell lung CA: Discussed with family that patient not
   candidate for XRT/chemo given current status and worse hypoxia.
   - f/u with Dr. [**Last Name (STitle) **]
   - consider palliative care consult
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold  perfenidone
   - will switch back to IV steroids today
   .
   #nasal congestion: Improving now
   -will continue nasal saline, flonase
   .
   #Agitation:
   -continue PRN ativan & will plan to increase morphine dose today
   - can discuss with family regarding morphine gtt
   .
   # GERD/hiatal hernia:
   -Continue protonix
   ICU Care
   Nutrition: NPO other than sips for comfort / Ensure TID. O2
   desaturations with any removal of face mask
   Glycemic Control:  ISS discontinued for comfort
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer: PPI
   VAP:   on Abx as above , bundle
   Comments:
   Communication:  Comments: First call
 [**Name (NI) 822**] (son) [**Telephone/Fax (1) 14658**]
   Code status: DNR / DNI
   Disposition: ICU

2119-04-03 08:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 yo M with IPF, initially presented with CAP requiring broad spectrum
   abx, developed hemoptysis while in house and had bronchoscopy with
   identification of SCC in L Lingula
   24 Hour Events:
   Overnight developed increased O2 requirement, with increased need for
   Morphine
   Patient had previously expressed his desire to be able to go home with
   hospice, but due to increased O2 requirement it may not be possible for
   this.
   Antibiotic coverage broadened yesterday for possible progression of
   pneumonia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2119-4-2**] 07:24 AM
   Vancomycin - [**2119-4-2**] 08:00 PM
   Cefipime - [**2119-4-3**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-3**] 12:30 AM
   Ciprofloxacin - [**2119-4-3**] 12:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-4-2**] 08:00 PM
   Lorazepam (Ativan) - [**2119-4-3**] 05:30 AM
   Morphine Sulfate - [**2119-4-3**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-3**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.4
   HR: 78 (73 - 91) bpm
   BP: 107/68(77) {102/42(58) - 131/80(90)} mmHg
   RR: 22 (18 - 34) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,380 mL
                                                                    241 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                    930 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  2,410 mL
                                                                    900 mL
   Urine:
                                                                  2,410 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,030 mL
                                                                   -659 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 93%
   ABG: ///35/
   Physical Examination
   General Appearance: fatigued
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : dry crackles
   throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   12.4 g/dL
   385 K/uL
   113 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   32 mg/dL
   94 mEq/L
   136 mEq/L
   38.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
                             [**2119-4-1**]  06:14 PM
                             [**2119-4-2**]  04:31 AM
                             [**2119-4-3**]  02:30 AM
   WBC
   14.1
   13.7
   15.5
   18.4
   21.6
   21.2
   Hct
   34.3
   34.7
   36.3
   35.8
   37.3
   38.5
   Plt
   462
   424
   406
   394
   414
   385
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   1.0
   0.9
   0.9
   Glucose
   145
   140
   125
   157
   122
   145
   101
   198
   120
   113
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:83.2 %, Lymph:8.7 %, Mono:3.8 %, Eos:4.0
   %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   1. Respiratory failure: likely [**1-17**] IPF, but would consider aspiration,
   volume overload and SCC as potential contributors.  Currently with
   increased O2 requirement and need for increased morphine and ativan for
   symptom management.
    - will cont vanc/cipro/cefepeme
    - will increase CS to solumedrol 80 [**Hospital1 7**]
    - NPO for now
    - Cont diuresis
    - family meeting this morning regarding overall goals of care given
   his poor prognosis, currently remains DNR/DNI
   2. Sinus congestion: cont flonase and sudaphed
   3. Cough: cont guafenesin
   4. Pain/discomfort: cont morphine/ativan
   5. FEN: NPO for now, cont PPI for reflux
   6. Goals of care: family meeting today to discuss overall goals
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: ICU fellow met with family
   this AM.  I met with family along with [**First Name8 (NamePattern2) 376**] [**Last Name (NamePattern1) 377**] from Palliative Care
   to discuss strategy to approach palliation of dyspnea.  Will try po
   morphine tonight.
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2119-04-04 07:08:00 Physician Resident Progress Note
Chief Complaint: 68 yo male with IPF,  PNA and new diagnosis squamous
   cell lung cancer with continued hypoxemia despite multiple treatments
   (Abx, steroids, nebs, O2 )
   24 Hour Events:
   consulted palliative care, started PRN PO morphine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2119-4-2**] 07:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-3**] 12:30 AM
   Vancomycin - [**2119-4-3**] 10:00 PM
   Cefipime - [**2119-4-4**] 12:00 AM
   Ciprofloxacin - [**2119-4-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-4-3**] 08:00 PM
   Pantoprazole (Protonix) - [**2119-4-3**] 08:30 PM
   Lorazepam (Ativan) - [**2119-4-3**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-4**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.7
   HR: 99 (71 - 114) bpm
   BP: 126/65(80) {85/52(53) - 143/81(95)} mmHg
   RR: 30 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,030 mL
                                                                    286 mL
   PO:
             TF:
   IVF:
                                                                  1,030 mL
                                                                    286 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                    445 mL
   Urine:
                                                                  2,470 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,440 mL
                                                                   -159 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ////
   Physical Examination:
   General: appears pale, fatigued, using accessory muscles to breath,
   facemask in place
   HEENT: PERRL, facemask in place
   CVS: S1/S2 reg, RRR
   LUNGS:  coarse rhonchi laterally and anteriorly
   ABD:  nontender and nondistended, soft, NABS
   EXT:  2+ pedal pulses
   Labs / Radiology
   385 K/uL
   12.4 g/dL
   113 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   32 mg/dL
   94 mEq/L
   136 mEq/L
   38.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
                             [**2119-4-1**]  06:14 PM
                             [**2119-4-2**]  04:31 AM
                             [**2119-4-3**]  02:30 AM
   WBC
   14.1
   13.7
   15.5
   18.4
   21.6
   21.2
   Hct
   34.3
   34.7
   36.3
   35.8
   37.3
   38.5
   Plt
   462
   424
   406
   394
   414
   385
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   1.0
   0.9
   0.9
   Glucose
   145
   140
   125
   157
   122
   145
   101
   198
   120
   113
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0 %, Mono:3.0
   %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan:
   68 year-old man with IPF, former smoker, and hypertension with new
   diagnosis squamous cell lung cancer with continued hypoxemia despite
   treatment for PNA, IPF, diuresis with worsened respiratory status
   overnight requiring higher oxygen requirement and increased air hunger
   with main goal of comfort now
   .
   # Dyspnea/Respiratory failure: Worsened O2 requirement with
   desaturations with any removal of face mask. Still multifactorial
   causes for his worse WOB and hypoxia, including IPF,  worsened R sided
   infiltrate and underlying lung cancer.  Family discussions ongoing but
   primary goal to keep patient comfortable
 still maintaining
   antibiotics.
   .
   - continue on morphine 5-10mg Q2hr PRN and also with PRN Ativan for
   respiratory distress / night time sleep
   - contact Dr. [**Last Name (STitle) **] [**Last Name (STitle) **], outpatient pulmonologist to touch base on
   recent decline x 48 hrs
   - still continue Vanc/Cefepime/Cipro
   - continue nebs
   - f/u AM CXR today for interval changes
   - will continue on  IV Solumedrol today
   - continue supporting family /meeting today
 social work involved, can
   talk to family regarding palliative care additions
   .
   # Pneumonia:  Patient has a right sided consolidation on CXR, worsened
   in last 48 hrs with no pathogens isolated. Unclear if new PNA spread or
   IPF. Antibiotics switched with aim for double coverage for pseudomonas
   - follow up sputum culture, other micro and CIS
   - continue vanc/cefepime/cipro for now
   - f/u CXR as above
   .
   # Squamous cell lung CA: Discussed with family that patient not
   candidate for XRT/chemo given current status and worse hypoxia.
   - f/u with Dr. [**Last Name (STitle) **]
   - consider palliative care consult
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold  perfenidone
   - will switch back to IV steroids today
   .
   #nasal congestion: Improving now
   -will continue nasal saline, flonase
   .
   #Agitation:
   -continue PRN ativan & will plan to increase morphine dose as tolerates
   / patient fears he will be too sedated to interact with family so
   slowly increasing as needed
   -.
   # GERD/hiatal hernia:
   -Continue protonix
   ICU Care
   Nutrition:  PO as tolerates  / sips
   Glycemic Control:
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2119-04-04 10:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Moving towards CMO per Dr. [**Last Name (STitle) 2**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2119-4-2**] 07:24 AM
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-3**] 12:30 AM
   Vancomycin - [**2119-4-3**] 10:00 PM
   Cefipime - [**2119-4-4**] 12:00 AM
   Ciprofloxacin - [**2119-4-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-4-3**] 08:00 PM
   Pantoprazole (Protonix) - [**2119-4-3**] 08:30 PM
   Lorazepam (Ativan) - [**2119-4-3**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-4**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.7
   HR: 99 (71 - 114) bpm
   BP: 126/65(80) {85/52(53) - 143/81(95)} mmHg
   RR: 30 (15 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,030 mL
                                                                    303 mL
   PO:
             TF:
   IVF:
                                                                  1,030 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                  1,020 mL
   Urine:
                                                                  2,470 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,440 mL
                                                                   -717 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   FiO2: 95%
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.4 g/dL
   385 K/uL
   113 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   32 mg/dL
   94 mEq/L
   136 mEq/L
   38.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
                             [**2119-4-1**]  06:14 PM
                             [**2119-4-2**]  04:31 AM
                             [**2119-4-3**]  02:30 AM
   WBC
   14.1
   13.7
   15.5
   18.4
   21.6
   21.2
   Hct
   34.3
   34.7
   36.3
   35.8
   37.3
   38.5
   Plt
   462
   424
   406
   394
   414
   385
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   1.0
   0.9
   0.9
   Glucose
   145
   140
   125
   157
   122
   145
   101
   198
   120
   113
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0 %, Mono:3.0
   %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Imaging: No CXR.
   Assessment and Plan
   68M patient of [**First Name4 (NamePattern1) 453**] [**Last Name (NamePattern1) 2**] w IPF, initially admitted with pna,
   developed hemoptysis and had bronchoscopy by IP which revealed
   obstructing mass at lingula which was biopsied and lasered. Found to be
   new diagnosis of squamous cell carcinoma. Persistent hypoxia on 95% FM
   x 48 hours. Moving toward CMO per Dr. [**Last Name (STitle) 2**]
   1. Respiratory failure: likely [**1-17**] IPF, but would consider aspiration,
   volume overload and SCC as potential contributors.  Currently with
   increased O2 requirement and need for increased morphine and ativan for
   symptom management.
    - will cont vanc/cipro/cefepeme
    - will increase CS to solumedrol 80 [**Hospital1 7**]
    - NPO for now
    - Cont diuresis
    - family meeting this morning regarding overall goals of care given
   his poor prognosis, currently remains DNR/DNI
   2. Sinus congestion: cont flonase and sudaphed
   3. Cough: cont guafenesin
   4. Pain/discomfort: cont morphine/ativan
   5. FEN: NPO for now, cont PPI for reflux
   6. Goals of care: family meeting today to discuss overall goals
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 20 minutes
   Patient is critically ill

2119-04-05 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - consulted palliative care, started prn PO morphine
   - d/w case manager and home insurance and hospice/VNA requiring oxygen
   max requirement of 10L oxygen
   - d/c all Abx, nonessential meds aside from comfort meds for breathing
   ( steroids, nebs, morphine and ativan for agitation/sleep all
   continued)
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-3**] 12:30 AM
   Vancomycin - [**2119-4-3**] 10:00 PM
   Cefipime - [**2119-4-4**] 12:00 AM
   Ciprofloxacin - [**2119-4-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-4-4**] 06:45 PM
   Lorazepam (Ativan) - [**2119-4-5**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-5**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 96 (82 - 109) bpm
   BP: 117/76(86) {106/65(75) - 161/92(103)} mmHg
   RR: 32 (17 - 40) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,580 mL
                                                                     39 mL
   PO:
                                                                  1,210 mL
             TF:
   IVF:
                                                                    370 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                    930 mL
   Urine:
                                                                  2,470 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -890 mL
                                                                   -891 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 89%
   ABG: ////
   Physical Examination:
   General: on facemask, more anxious this morning, using accessory mm. to
   breath
   HEENT: PERRL,  EOMI
   CVS: S1/S2 , RRR
   LUNGS: coarse rhonchi bilaterally
   ABD: NABS, nontender and nondistended
   SKIN: no rashes
   Ext: 2+ pedal pulses, warm
   Labs / Radiology
   385 K/uL
   12.4 g/dL
   113 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   32 mg/dL
   94 mEq/L
   136 mEq/L
   38.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
                             [**2119-4-1**]  06:14 PM
                             [**2119-4-2**]  04:31 AM
                             [**2119-4-3**]  02:30 AM
   WBC
   14.1
   13.7
   15.5
   18.4
   21.6
   21.2
   Hct
   34.3
   34.7
   36.3
   35.8
   37.3
   38.5
   Plt
   462
   424
   406
   394
   414
   385
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   1.0
   0.9
   0.9
   Glucose
   145
   140
   125
   157
   122
   145
   101
   198
   120
   113
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0 %, Mono:3.0
   %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   68 year-old man with IPF, former smoker, and hypertension with new
   diagnosis squamous cell lung cancer with continued hypoxemia despite
   treatment for PNA, IPF, diuresis with worsened respiratory status
   overnight requiring higher oxygen requirement and increased air hunger
   with main goal of comfort now
   .
   # Dyspnea/Respiratory failure: Worsened O2 requirement with
   desaturations with any removal of face mask. Still multifactorial
   causes for his worse WOB and hypoxia, including IPF, worsened R sided
   infiltrate and underlying lung cancer.  Family discussions ongoing but
   primary goal to keep patient comfortable.
   . .
   - continue on morphine 5-10mg Q2hr PRN and also with PRN Ativan for
   respiratory distress / night time sleep
   - continue nebs
   - antibiotics discontinued
   - will continue on  IV Solumedrol today / d/w pulmonologist possible
   discontinuation
   - goal is hospice, focus on comfort, touch base with palliative care,
   CM regarding oxygen possibilities at home and/or transfer to floor or
   hospital closer to his home
   .
   # Squamous cell lung CA: Discussed with family that patient not
   candidate for XRT/chemo given current status and worse hypoxia.
   - f/u with Dr. [**Last Name (STitle) **] recs
   - palliative care involved
   .
   # IPF: Followed by pulmonary, currently in the RECAP trial. Has been
   unable to tolerate the perfenidone recently given his illness and
   trouble tolerating antibiotics as well due to GI side effects.
   - continue to hold  perfenidone
   - cont  IV steroids
   #oral thrush
 will continue Nystatin coverage
   .
   #nasal congestion: Improving now
   -will continue nasal saline, flonase
   .
   #Agitation:
   -continue PRN ativan & will plan to increase morphine dose as tolerates
   / patient fears he will be too sedated to interact with family so
   slowly increasing as needed
   ICU Care
   Nutrition: POs for comfort
   Glycemic Control:  none
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: none
   VAP:
   Comments:
   Communication:  Comments: Son [**Name (NI) 822**] is first call (cell phone on board
   in room)
   Code status: DNR / DNI moving towards CMO
   Disposition: ICU for now, CM regarding home options vs callout to floor
   if CMO

2119-04-05 09:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Unable to give the amount of oxygen he needs at home.
   - Anxiety attack this am.
   - PO morphine and IV ativan. IV morphine prn (not required).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2119-4-3**] 12:30 AM
   Vancomycin - [**2119-4-3**] 10:00 PM
   Cefipime - [**2119-4-4**] 12:00 AM
   Ciprofloxacin - [**2119-4-4**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2119-4-4**] 06:45 PM
   Lorazepam (Ativan) - [**2119-4-5**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-4-5**] 09:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**20**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (96.9
   HR: 95 (87 - 109) bpm
   BP: 115/80(88) {106/65(75) - 161/92(103)} mmHg
   RR: 29 (17 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,580 mL
                                                                     46 mL
   PO:
                                                                  1,210 mL
             TF:
   IVF:
                                                                    370 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                  1,330 mL
   Urine:
                                                                  2,470 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -890 mL
                                                                 -1,284 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   385 K/uL
   113 mg/dL
   0.9 mg/dL
   35 mEq/L
   3.8 mEq/L
   32 mg/dL
   94 mEq/L
   136 mEq/L
   38.5 %
   21.2 K/uL
        [image002.jpg]
                             [**2119-3-29**]  05:44 AM
                             [**2119-3-29**]  05:30 PM
                             [**2119-3-30**]  05:46 AM
                             [**2119-3-30**]  06:06 PM
                             [**2119-3-31**]  06:08 AM
                             [**2119-3-31**]  08:55 PM
                             [**2119-4-1**]  05:54 AM
                             [**2119-4-1**]  06:14 PM
                             [**2119-4-2**]  04:31 AM
                             [**2119-4-3**]  02:30 AM
   WBC
   14.1
   13.7
   15.5
   18.4
   21.6
   21.2
   Hct
   34.3
   34.7
   36.3
   35.8
   37.3
   38.5
   Plt
   462
   424
   406
   394
   414
   385
   Cr
   0.8
   0.8
   0.9
   0.9
   0.9
   0.8
   0.9
   1.0
   0.9
   0.9
   Glucose
   145
   140
   125
   157
   122
   145
   101
   198
   120
   113
   Other labs: PT / PTT / INR:12.7/21.9/1.1, ALT / AST:13/18, Alk Phos / T
   Bili:96/, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0 %, Mono:3.0
   %, Eos:1.0 %, Lactic Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Fluid analysis / Other labs: No labs per patient wishes.
   Imaging: No imaging per patient wishes.
   Assessment and Plan
   68M patient of [**First Name4 (NamePattern1) 453**] [**Last Name (NamePattern1) 2**] w IPF, initially admitted with pna,
   developed hemoptysis and had bronchoscopy by IP which revealed
   obstructing mass at lingula which was biopsied and lasered. Found to be
   new diagnosis of squamous cell carcinoma. Persistent hypoxia on 95% FM
   x 48 hours. Moving toward comfort measures per Dr. [**Last Name (STitle) 2**]
    #. Respiratory failure: likely [**1-17**] IPF, but pneumonia, aspiration,
   volume overload and SCC are potential contributors.  Currently with
   increased O2 requirement and need for increased morphine and ativan for
   symptom management.
    - Per GOC discussions, d/c abx. No further CXR or blood draws.
    - Continue solumedrol for now.
    - Nebs for comfort
    - Resume diet
   #. Pain/discomfort: Cont morphine/ativan per patient wishes.
   #. FEN: Diet as tolerated
   #. Goals of care: Moving towards focus on comfort.
   ICU Care
   Nutrition:
   Comments: Diet as tolerated.
   Glycemic Control:
   Lines:
   PICC Line - [**2119-3-27**] 11:00 AM
   Prophylaxis:
   DVT: (Patient declined.)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 15 minutes
   Patient is critically ill